US04628115
A mixture of 4.30 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 5.10 g of methyl 8-bromooctanoate and 4.55 g of anhydrous potassium carbonate in 100 ml of anhydrous acetone and 30 ml of anhydrous dimethyl formamide was stirred at reflux for 20 hours. The usual workup followed by purification by high pressure liquid chromatography using a solvent of 15% ethyl acetate-hexane gave 4.5 g (58% yield) of 8-(4-acetyl-3-hydroxy-2-propylphenoxy)octanoic acid methyl ester, the titled compound, mp 39°-41°, after crystallization from hexane.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 4.30 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | methyl 8-bromooctanoate | 5.10 g | BrCCCCCCCC(=O)OC | C9H17BrO2
reactant | potassium carbonate | 4.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 8-(4-acetyl-3-hydroxy-2-propylphenoxy)octanoic acid methyl ester | 4.5 g, 58% yield | COC(CCCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C20H30O5
